US07268128B2
2-[Cyclohexyl(hydroxy)methylene]malononitrile
To a 60 ml tetrahydrofuran solution of 3.96 g (0.06 mol) of malononitrile, 4.8 g (60% in oil, 0.12 mol) of sodium hydride was added at 0° C. in four divided portions, and the mixture was stirred for 30 minutes at 0° C. Then, cyclohexanecarboxylic acid chloride was added dropwise, and the mixture was stirred for 30 minutes at room temperature. Then, 150 ml of 1M hydrochloric acid was slowly added, and the mixture was extracted with ethyl acetate. Then, the extract was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. Recrystallization of the residue from diisopropyl ether gave 8.16 g (77%) of the captioned compound.

reactant | malononitrile | 0.06 mol, 3.96 g | C(CC#N)#N | C3H2N2
reactant | sodium hydride | 0.12 mol, 4.8 g | [H-].[Na+]
reactant | cyclohexanecarboxylic acid chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | hydrochloric acid | 1M, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-[Cyclohexyl(hydroxy)methylene]malononitrile | 8.16 g, 77% | C1(CCCCC1)C(=C(C#N)C#N)O | C10H12N2O
